US08044052B2
Phenyl 1H-benzo[d][1,2,3]triazol-5-ylcarbamate
To a solution of 1H-benzo[d][1,2,3]triazol-5-amine (1.85 g, 13.8 mmol, Alfa Aesar) in THF (10 mL) and CH3CN (8 mL) was added pyridine (1.34 mL, 16.6 mmol) followed by phenyl chloroformate (2.27 mL, 14.5 mmol) slowly. The reaction was stirred overnight. The reaction was concentrated to give an oil, which was partitioned between CH2Cl2 and water. The organic layer was dried using a SPE phase separator and concentrated to give a solid. This was taken up in CH2Cl2 and the precipitate was filtered to give the desired product (2.0 g, 57%) which was used without purification. MS M+1: 256.06.

reactant | 1H-benzo[d][1,2,3]triazol-5-amine | 13.8 mmol, 1.85 g | N1N=NC2=C1C=CC(=C2)N | C6H6N4
reactant | pyridine | 16.6 mmol, 1.34 mL | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 14.5 mmol, 2.27 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | CH3CN | 8 mL | CC#N | C2H3N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Phenyl 1H-benzo[d][1,2,3]triazol-5-ylcarbamate | 2.0 g, 57% | N1N=NC2=C1C=CC(=C2)NC(OC2=CC=CC=C2)=O | C13H10N4O2
